US04154947
Preparation of 1-(2,6-Dimethylbenzylideneamino)-3-(2-pyridylmethyl)guanidine hydriodide
A mixture of 2.93 g. of 1-amino-3-(2-pyridylmethyl)guanidine hydriodide and 1.34 g. of 2,6-dimethylbenzaldehyde [G. Lock and K. Schmidt, J. Prakt. Chem., 140, 229 (1934)] is dissolved in 5 ml. of glacial acetic acid at 100° C. After 2 hours the solidified reaction is triturated with water and filtered. Crystallization from absolute ethanol gives the desired product as colorless needles, m.p. 184°-186° C.

reactant | 1-amino-3-(2-pyridylmethyl)guanidine hydriodide | I.NNC(=N)NCC1=NC=CC=C1
reactant | 2,6-dimethylbenzaldehyde | CC1=C(C=O)C(=CC=C1)C | C9H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2,6-Dimethylbenzylideneamino)-3-(2-pyridylmethyl)guanidine hydriodide | I.CC1=C(C=NNC(=N)NCC2=NC=CC=C2)C(=CC=C1)C | InChI=1S/C16H19N5.HI/c1-12-6-5-7-13(2)15(12)11-20-21-16(17)19-10-14-8-3-4-9-18-14;/h3-9,11H,10H2,1-2H3,(H3,17,19,21);1H
